US06399629B1
(A) N-tert-Butoxycarbonylglycine 4-Benzylphenylamide
Bis(2-oxo-3-oxazolidinyl)phosphinic chloride (1.90 g) and N,N-diisopropylethyl-amine (1.5 mL) were added to a solution of 4-aminodiphenylmethane (0.52 g) and N-tert-butoxycarbonylglycine (0.50 g) in dichloromethane (30 mL) at 0° C. After stiriing at 0° C. for 10 min and at room temperature for 17.5 hr, the solvent was removed in vacuo. The residue was diluted with 1 N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, saturated sodium hydrogen carbonate, and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1, v/v) to afford the title compound (0.81 g) as a colorless powder: 1H NMR (400 MHz, CDCl3) δ 1.47 (s, 9H), 3.90 (d, 2H), 3.94 (s, 2H), 7.12-7.21 (m, 5H), 7.28 (d, 2H), 7.41 (d, 2H).

reactant | Bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 1.90 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | N,N-diisopropylethyl-amine | 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-aminodiphenylmethane | 0.52 g | C1=CC=C(C=C1)CC2=CC=C(C=C2)N | C13H13N
reactant | N-tert-butoxycarbonylglycine | 0.50 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-tert-Butoxycarbonylglycine 4-Benzylphenylamide | 0.81 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)NC(CNC(=O)OC(C)(C)C)=O | C20H24N2O3
